US04236004
7,8-dihydro-8-ethyl-5-(4-methyl-1-piperazinyl)-7-oxo-2-phenyl-pyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester
To 0.9 g. (0.0025 mole) of 5-chloro-7,8-dihydro-8-ethyl-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (prepared by the method of Example 3, first paragraph) and 0.25 g. (0.0025 mole) of N-methyl piperazine in 40 ml. of ethanol was added 0.27 g. (0.0025 mole) of Na2CO3. The reaction mixture was refluxed for 3 hours after which time it was filtered and chilled in ice. The resulting precipitate was removed by filtration, and rinsed with diethyl ether, giving 0.7 g. of solid--m.p. 180°-185° C.

reactant | 5-chloro-7,8-dihydro-8-ethyl-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.0025 mole | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC)Cl | C18H16ClN3O3
reactant | N-methyl piperazine | 0.0025 mole | CN1CCNCC1 | C5H12N2
reactant | Na2CO3 | 0.0025 mole | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 7,8-dihydro-8-ethyl-5-(4-methyl-1-piperazinyl)-7-oxo-2-phenyl-pyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC)N1CCN(CC1)C | C23H27N5O3
